US07135475B2
This compound was prepared by a method similar to that described in example 11 (method 1) except that [4-(2,2,2-trifluoro-acetylamino)-phenyl]-acetic acid (prepared by the method of K. D. Janda et al, as described in J. Amer. Chem. Soc. 1991, 113, 291) was used in place of (4-acetylamino-phenyl)-acetic acid. A mixture of products arising from mono-alkylation at the 1 position of the 1H-pyrimidine-2,4-dione and bis-alkylation at both the 1 position of the 1H-pyrimidine-2,4-dione and acetanilide nitrogen were obtained. When this mixture of compounds was directly subjected to the conditions used to effect cyclization to the xanthine the trifluoroacetyl groups were removed by hydrolysis. A 2:1 mixture of 8-(amino-benzyl)-3-butyl-1-(2-fluorobenzyl)-3,7-dihydro-purine-2,6-dione and 3-butyl-8-(4-butylamino-benzyl)-1-(2-fluorobenzyl)-3,7-dihydro-purine-2,6-dione was obtained which was separated by chromatography using silica gel eluted with 96:4 chloroform/methanol. MS, m/z(M+)=421.1914.

reactant | [4-(2,2,2-trifluoro-acetylamino)-phenyl]-acetic acid | FC(C(=O)NC1=CC=C(C=C1)CC(=O)O)(F)F | C10H8F3NO3
reactant | (4-acetylamino-phenyl)-acetic acid | C(C)(=O)NC1=CC=C(C=C1)CC(=O)O | C10H11NO3
reactant | 1H-pyrimidine-2,4-dione | N1C(NC(C=C1)=O)=O | C4H4N2O2
product | acetanilide nitrogen | [N].C(C)(=O)NC1=CC=CC=C1 | InChI=1S/C8H9NO.N/c1-7(10)9-8-5-3-2-4-6-8;/h2-6H,1H3,(H,9,10);
